US07550478B2
A round bottomed flask was charged with (2S)-1,4-dioxan-2-ylmethanol (115 mg, 0.973 mmol), triethylamine (0.204 mL, 1.46 mmol), and 5 mL of dichloromethane then cooled to −10° C. Methanesulfonyl chloride (91 μL, 1.17 mmol) was added by syringe and the solution was stirred for 30 minutes at −10° C. The solution was diluted in dichloromethane, washed with 1M HCl, and the aqueous layer was extracted with dichloromethane (2×). The combined organic layers were washed with saturated aqueous sodium bicarbonate (2×) and brine, then dried over sodium sulfate and concentrated to afford (2R)-1,4-dioxan-2-ylmethyl methanesulfonate.

reactant | (2S)-1,4-dioxan-2-ylmethanol | 0.973 mmol, 115 mg | O1[C@H](COCC1)CO | C5H10O3
reactant | triethylamine | 1.46 mmol, 0.204 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.17 mmol, 91 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2R)-1,4-dioxan-2-ylmethyl methanesulfonate | CS(=O)(=O)OC[C@@H]1OCCOC1 | C6H12O5S
